US04818766
38.4 g (250 mmol) of 4-(2-aminoethoxy)-phenol are stirred for 2 hours at room temperature with 54.7 g (250 mmol) of pyrocarbonic acid ditertiary butyl ester in 500 ml of dioxan. After the addition of 20 ml of concentrated ammonia, the whole is stirred for a further 30 minutes. After concentration by evaporation under reduced pressure, the residue is dissolved in ethyl acetate and washed with water, and the organic phase is dried (MgSO4) and concentrated by evaporation. The resulting oily crude product is recrystallised from cyclohexane/ether (10:1) and yields p-(2-tertiary butoxycarbonylaminoethoxy)-phenol, which has a melting point of 84°-85°.

reactant | 4-(2-aminoethoxy)-phenol | 250 mmol, 38.4 g | NCCOC1=CC=C(C=C1)O | C8H11NO2
reactant | pyrocarbonic acid ditertiary butyl ester | 250 mmol, 54.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonia | 20 ml | N | H3N
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
product | p-(2-tertiary butoxycarbonylaminoethoxy)-phenol | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)O | C13H19NO4
